US09108903B2
A solution of 2-fluoro-4,6-bis(trifluoromethyl)benzoyl chloride (1.0 g, 3.39 mmol) and dichloromethane (5.0 mL) was added drop-wise to a mixture of methyl 5-aminopyridine-2-carboxylate (619.9 mg, 4.07 mmol), pyridine (824.1 μL, 10.18 mmol) in dichloromethane (20.00 mL) at 0° C. The mixture was allowed to warm to room temperature and was stirred at that temperature overnight. The mixture was poured into 1N HCl and dichloromethane. The layers were separated and the organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure to give a tan solid. The product was purified on column chromatography eluting with 10-100% ethyl acetate in hexanes to obtain methyl 5-[[2-fluoro-4,6-bis(trifluoromethyl)benzoyl]amino]pyridine-2-carboxylate (850 mg, 61%) as a white solid. ESI-MS m/z calc. 410.05, found 411.0 (M+1)+; Retention time: 0.62 minutes (3 minutes run). 1H NMR (400 MHz, DMSO-d6) δ 11.59 (s, 1H), 8.86 (d, J=2.4 Hz, 1H), 8.48-8.41 (m, 1H), 8.34 (dd, J=8.6, 2.6 Hz, 1H), 8.20 (s, 1H), 8.15 (d, J=8.6 Hz, 1H), 3.89 (s, 3H) ppm.

reactant | 2-fluoro-4,6-bis(trifluoromethyl)benzoyl chloride | 3.39 mmol, 1.0 g | FC1=C(C(=O)Cl)C(=CC(=C1)C(F)(F)F)C(F)(F)F | C9H2ClF7O
reactant | methyl 5-aminopyridine-2-carboxylate | 4.07 mmol, 619.9 mg | NC=1C=CC(=NC1)C(=O)OC | C7H8N2O2
reactant | pyridine | 10.18 mmol, 824.1 μL | N1=CC=CC=C1 | C5H5N
reactant | HCl | 1N | Cl | ClH
solvent | dichloromethane | 20.00 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5.0 mL | ClCCl | CH2Cl2
product | methyl 5-[[2-fluoro-4,6-bis(trifluoromethyl)benzoyl]amino]pyridine-2-carboxylate | 850 mg, 61% | FC1=C(C(=O)NC=2C=CC(=NC2)C(=O)OC)C(=CC(=C1)C(F)(F)F)C(F)(F)F | C16H9F7N2O3
